US08278345B2
Compound 193: 3-Hydroxy-1-(3-imidazol-1-yl-propyl)-5-(4-methoxy-phenyl)-4-pentyl-1,5-dihydro-pyrrol-2-one
3-Imidazol-1-yl-propylamine (1 mmol) and 4-Methoxy-benzaldehyde (1 mmol) were added to ethanol (5 ml). After 30 min 2-Oxo-octanoic acid ethyl ester (1 mmol) was added. The reaction was heated to 50° C. and stirred for 24 h. After evaporation of the solvent the residue was purified with chromatographic methods.

reactant | 3-Imidazol-1-yl-propylamine | 1 mmol | N1(C=NC=C1)CCCN | C6H11N3
reactant | 4-Methoxy-benzaldehyde | 1 mmol | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | 2-Oxo-octanoic acid ethyl ester | 1 mmol | C(C)OC(C(CCCCCC)=O)=O | C10H18O3
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-Hydroxy-1-(3-imidazol-1-yl-propyl)-5-(4-methoxy-phenyl)-4-pentyl-1,5-dihydro-pyrrol-2-one | OC=1C(N(C(C1CCCCC)C1=CC=C(C=C1)OC)CCCN1C=NC=C1)=O | C22H29N3O3
